Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Pravachol / Sulfa (Sulfonamide Antibiotics) / Zestril
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ year old woman with a past medical history 
of
atrial fibrillation (on apixaban), moderate aortic stenosis,
coronary artery disease s/p stents to LAD, LCx, and CABG ___
(LIMA-LAD, SVG-RPDA-PL), COPD with pulmonary hypertension on 3L
home O2, and heart failure with preserved EF, DM2 who presents
with chest pain.

The patient was in her usual state of health until the morning 
of
admission when she developed chest pain. The pain is on the left
side of the chest. It is dull, at first intermittent but now
constant, and getting progressively worse. She was sitting still
when the pain began. It is not worse with exertion. It is not
worse with deep breathing. She has some anxiety with the pain.
She denies shortness of breath, fevers, chills. She has a
decreased appetite over the last week or so. No change in her
oxygen requirement at home. She weighs herself daily and has 
been
between 161 and 165 pounds. 

In the ED, initial vitals: 
T 97.2  HR 84 BP 148/82 RR 28 SaO2 98% 3L NC  

- Exam notable for:  
Anxious appearing

- Labs notable for: 
CBC: 11.4>12.6/39<261
INR 1.2
Na 134 K 4.8 Cl 94 HCO3 24 BUN 36 Cr 1.3 Gluc 206
Trop < 0.01
BNP ___
 
- Imaging notable for:
CXR
1. Findings concerning for left lower lobe pneumonia in the
appropriate clinical setting.
2. Cardiomegaly 

EKG- AFib, RBBB 

- Pt given:  
___ 22:10 PO Lorazepam .5 mg   
___ 23:19 IV CefTRIAXone    
___ 23:19 PO Acetaminophen 1000 mg 
___ 23:19 PO Ibuprofen 600 mg 
___ 23:26 PO/NG Atorvastatin 80 mg  
___ 23:26 PO/NG Gabapentin 300 mg 
___ 23:29 PO/NG Apixaban 2.5 mg 
___ 00:09 IV Azithromycin 500mg  
___ 00:09 IV CefTRIAXone 1 gm 
___ 00:15 SC Insulin 2 Units  
___ 00:43 IVF  LR  500cc

- Vitals prior to transfer:  
T 97.7 HR 59 BP 108/66 RR 16 SaO2 96% 3L NC 

Upon arrival to the floor, the patient reports the above. Chest
pain is ongoing in the left chest. Dull. Does not feel like
cardiac chest pain to her. Breathing is stable. No cough. No
fever.   

 
Past Medical History:
pHTN on 3L O2
CAD s/p CABG and multiple ___
HFpEF (LVEF = 55% in ___
Hypertension
T2DM
Hyperlipidemia
Peripheral Neuropathy  
h/o herniated disk 
Macular degeneration of L eye 
 
Social History:
___
Family History:
There is no family history of premature coronary artery disease
or sudden death.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS:   T 97.3 BP 107 / 67 HR 95 RR 21 SaO2 95% on 4L
GENERAL: Lying in bed, chronically ill appearing, nontoxic
HEENT: AT/NC, anicteric sclera, MMM
CV: Irregulary irregular, ___ systolic murmur at RUSB
PULM: Crackles on L>R. Good air movement.
GI: Abdomen soft, nondistended, nontender 
EXTREMITIES: 1+ pitting edema to mid shin bilaterally
NEURO: No focal deficits.
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
VITALS:  98.4PO 107 / 68R Lying 57 17 99 3L 
GENERAL: in no acute distress, somnolent but awakens to touch
HEENT: anicteric sclerae
CV: Irregulary irregular, ___ mid-systolic murmur at RUSB
PULM: CTAB, no wheezing or crackles
GI: Abdomen soft, nondistended, nontender 
EXTREMITIES: 1+ pitting edema to mid shin bilaterally, WWP,
venous stasis skin changes 
NEURO: AOx2, moves all extremities
 
Pertinent Results:
ADMISSION LABS:
==================
___ 09:44PM BLOOD WBC-11.4* RBC-4.21 Hgb-12.6 Hct-39.0 
MCV-93 MCH-29.9 MCHC-32.3 RDW-15.1 RDWSD-50.5* Plt ___
___ 09:44PM BLOOD Neuts-71.7* Lymphs-18.3* Monos-6.6 
Eos-2.1 Baso-0.6 Im ___ AbsNeut-8.16* AbsLymp-2.08 
AbsMono-0.75 AbsEos-0.24 AbsBaso-0.07
___ 09:44PM BLOOD ___ PTT-26.4 ___
___ 09:44PM BLOOD Glucose-206* UreaN-36* Creat-1.3* Na-134* 
K-4.8 Cl-94* HCO3-24 AnGap-16
___ 09:44PM BLOOD ALT-14 AST-20 AlkPhos-169* TotBili-1.5
___ 09:44PM BLOOD cTropnT-<0.01 proBNP-2134*
___ 09:44PM BLOOD Albumin-4.2
___ 06:03AM BLOOD Calcium-9.3 Phos-4.7* Mg-2.1

DISCHARGE LABS:
===================
___ 05:50AM BLOOD WBC-10.4* RBC-3.78* Hgb-11.4 Hct-35.6 
MCV-94 MCH-30.2 MCHC-32.0 RDW-15.5 RDWSD-52.9* Plt ___

MICRO:
=============
___ BLOOD CULTURE NGTD
___ Urine Legionella Ag negative
___ Urine culture skin contamination

IMAGING:
==============
___ CHEST (PA & LAT) 
1. Findings concerning for left lower lobe pneumonia in the 
appropriate 
clinical setting. 
2. Cardiomegaly.  No overt pulmonary edema. 

 
Brief Hospital Course:
SUMMARY:
=======================================
Ms. ___ is an ___ year old woman with a past medical history 
of atrial fibrillation (on apixaban), moderate aortic stenosis, 
coronary artery disease s/p stents to LAD, LCx, and CABG ___ 
(LIMA-LAD, SVG-RPDA-PL), COPD with pulmonary hypertension on 3L 
home O2, heart failure with preserved EF, and DM2 who presented 
to the ED with chest pain, which resolved after admission 
(overnight).

ACUTE/ACTIVE PROBLEMS: 
=======================================
# Goals of care: Patient had been on home hospice for past 5 
months, but had multiple hospitalizations during this time. 
Given this was not in the spirit of the initial hospice 
decision, her agency planned to switch her from hospice to 
palliative care services. On further discussion with patient and 
daughter, decision made to go rehab for the time being, with 
tentative plan to return home with ___ services. Confirmed 
DNR/DNI.

# Chest pain (resolved)
Patient presented with dull chest pain of one day duration 
associated with anxiety. Ddx included acute coronary syndrome 
(but pain is not angina-like in that it is not noticeably worse 
with exertion, and ECG and trops were negative), PE (but pain is 
not pleuritic and patient is anticoagulated on apixaban), 
pneumonia given slight elevation in WBC count and CXR findings 
suggesting possible pneumonia but no cough or fever. Afib at 
baseline. Weight was stable, on the high end of her normal 
range. Received antibiotics (ceftriaxone, azithromycin) in ED. 
On ___ AM, patient attested to resolution of chest pain. Given 
resolution of pain, equivocal CXR findings for PNA, no symptoms 
suggestive of PNA, and no change in O2 requirement, antibiotics 
were discontinued on ___ after 1 dose. On further discussion 
with daughter, patient frequently endorses chest pain when 
hemorrhoids are bothering her, perhaps due to exertion vs. 
anxiety.

# Heart failure with preserved EF
# Pulmonary Hypertension
Patient presented with elevated BNP to ___ but less than 3k 
that was on her last admission with volume overload. She 
received a small fluid bolus in the ED for concern for 
infection. Home diuretics were restarted on ___ given slight 
volume overload on exam (pitting edema). She did not develop 
respiratory distress or other evidence of pulmonary edema. 

# UTI
Patient noted some urinary discomfort during hospitalization. UA 
showed +leuk, >150 WBCs. Urine culture was contaminated. She was 
treated with 5-day course Cefpodoxime given contraindications to 
Macrobid, Bactrim, and cipro. Start date ___. 

# Vaginal pain
The patient attested to severe intermittent vaginal pain, 
described as "on the inside" and "in the uterus." Occurred 
during same time as complaint of dysuria, thus thought to be 
likely related to her UTI. External exam was normal, pelvic exam 
was deferred. The pain improved with abx, Tylenol, and 
oxycodone. 

CHRONIC ISSUES: 
=======================================
# A-fib
- Metoprolol was held for bradycardia (HR < 40 at several times 
on telemetry)
- Apixaban 5 mg PO BID was continued, although recent medication 
list from ___ reported 2.5mg BID as home med

# CAD s/p CABG
# HLD
- Aspirin and atorvastatin were continued.

# T2DM
- Continued glargine 25U QHS
- Home SITagliptin 100 mg oral QHS was held, restarted on 
discharge

# COPD
- Home Symbacort was replaced with Advair (formulary) while in 
hospital 

# Chronic pain
- Gabapentin was continued
- Home Vicodin was discontinued and replaced by Tylenol and 
oxycodone
- Started Ativan 0.25mg Q6H prn for anxiety contributing to pain

# GERD
- Omeprazole 20 mg PO was continued

TRANSITIONAL ISSUES:
=======================================
- Follow up with PCP regarding etiology of the atypical chest 
pain, as well as pain associated with hemorrhoids 
- Monitor pain and anxiety, titrate medication regimen as needed

MEDICATION CHANGES:
=======================================
- Cefpodoxime 200mg Q24H for UTI, END DATE ___
- Discontinued home Vicodin in favor of standing Tylenol ___ 
Q6H and oxycodone 5mg Q6H PRN
- Started Ativan 0.25mg PO Q6H PRN for anxiety-related pain

# DISCHARGE WEIGHT: 75.39 kg
# CODE: DNR/DNI
# CONTACT: Daughter, ___, ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 2.5 mg PO BID 
2. Artificial Tears 1 DROP BOTH EYES TID 
3. Atorvastatin 80 mg PO QPM 
4. Bisacodyl 10 mg PO DAILY:PRN Constipation - First Line 
5. Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
6. Gabapentin 300 mg PO BID 
7. Hydrocortisone (Rectal) 2.5% Cream ___ID 
8. Lidocaine 5% Patch 1 PTCH TD QAM foot pain 
9. Metoprolol Succinate XL 12.5 mg PO DAILY 
10. Omeprazole 20 mg PO DAILY 
11. Polyethylene Glycol 17 g PO DAILY 
12. Senna 8.6 mg PO BID:PRN Constipation - Second Line 
13. Torsemide 100 mg PO DAILY 
14. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
15. Dibucaine 1 % topical TID:PRN hemorrhoids 
16. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain 
- Moderate 
17. SITagliptin 100 mg oral QHS 
18. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
19. Loratadine 10 mg PO DAILY 
20. Diff-Stat (Sacch boulardi-Bacill coag-FOS) 471 mg oral BID 
21. Spironolactone 50 mg PO DAILY 
22. Levemir 25 Units Bedtime
23. Aspirin 81 mg PO DAILY 
24. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 200 mg PO Q24H Duration: 1 Day  
2.  LORazepam 0.5 mg PO Q6H:PRN anxiety/pain 
RX *lorazepam [Ativan] 0.5 mg 1 by mouth every six (6) hours 
Disp #*12 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: discontinuing vicoden
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*12 Tablet Refills:*0 
4.  Levemir 25 Units Bedtime 
5.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever  
6.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath  
7.  Apixaban 2.5 mg PO BID  
8.  Artificial Tears 1 DROP BOTH EYES TID  
9.  Aspirin 81 mg PO DAILY  
10.  Atorvastatin 80 mg PO QPM  
11.  Bisacodyl 10 mg PO DAILY:PRN Constipation - First Line  
12.  Dibucaine 1 % topical TID:PRN hemorrhoids  
13.  Diff-Stat (Sacch boulardi-Bacill coag-FOS) 471 mg oral BID  

14.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
 
15.  Gabapentin 300 mg PO BID  
16.  Hydrocortisone (Rectal) 2.5% Cream ___ID  
17.  Lidocaine 5% Patch 1 PTCH TD QAM foot pain  
18.  Loratadine 10 mg PO DAILY  
19.  Omeprazole 20 mg PO DAILY  
20.  Polyethylene Glycol 17 g PO DAILY  
21.  Senna 8.6 mg PO BID:PRN Constipation - Second Line  
22.  SITagliptin 100 mg oral QHS  
23.  Spironolactone 50 mg PO DAILY  
24.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  
25.  Torsemide 100 mg PO DAILY  
26. HELD- Metoprolol Succinate XL 12.5 mg PO DAILY  This 
medication was held. Do not restart Metoprolol Succinate XL 
until told so by your doctor

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
# Chest Pain
# UTI

SECONDARY:
# CAD
# COPD on home O2
# Chronic back pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You had chest pain that was not getting better

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were given fluids in the emergency department
- You had a ECG done and lab tests that suggested you were NOT 
having a heart attack
- You had a chest x-ray that showed you might have a pneumonia, 
for which you received antibiotics, which were later stopped 
because your chest pain resolved and you did not have any 
symptoms of pneumonia
- You were treated for a urinary tract infection

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please continue to take all of your medications and follow-up 
with your appointments as listed below.
- Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
- If you have worsening shortness of breath or the chest pain 
recurs and is severe, seek medical attention. 
- Continue using your home oxygen as you were before you came to 
the ED. 

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___